US05294626
6-(5-(2-(4-Fluorobenzenesulphonylamino)ethyl)-N-methylpyrrol-2-yl)-6-(3-pyridyl)hexanoic acid
A mixture of 2.36 g of 6-(5-(2-(4-fluorobenzenesulphonylamino)ethyl)-N-methyl-pyrrol-2-yl)-6-(3-pyridyl)hex-5-enoic acid, 0.4 g of sodium hydroxide and 1 g of 10% palladium/charcoal in 50 ml of methanol is hydrogenated under 5 bar of hydrogen pressure. Then the catalyst is filtered off, the filtrate is evaporated down, the residue is diluted with water, acidified and extracted with ethylene chloride. The organic extract is evaporated down and the residue recrystallised from ethyl acetate.

reactant | 6-(5-(2-(4-fluorobenzenesulphonylamino)ethyl)-N-methyl-pyrrol-2-yl)-6-(3-pyridyl)hex-5-enoic acid | 2.36 g | FC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(N1C)C(=CCCCC(=O)O)C=1C=NC=CC1 | C24H26FN3O4S
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/charcoal | 1 g | [Pd] | Pd
product | 6-(5-(2-(4-Fluorobenzenesulphonylamino)ethyl)-N-methylpyrrol-2-yl)-6-(3-pyridyl)hexanoic acid | FC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(N1C)C(CCCCC(=O)O)C=1C=NC=CC1 | C24H28FN3O4S
